* File: xnor2.pex.sp.pex
* Created: Tue Apr 15 16:40:11 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_XNOR2%Z 1 2 6 9 13 16 22 24 25 28 32 38 42
c90 32 0 1.35058e-19
c91 22 0 2.38746e-20
c92 13 0 0.00472138f
c93 6 0 3.82114e-19
r94 39 40 0.164334
r95 38 40 0.362375
r96 36 42 0.00964403
r97 36 39 0.161271
r98 31 34 0.445845
r99 31 32 0.317665
r100 29 42 0.0371092
r101 29 32 0.171958
r102 27 42 0.0371092
r103 27 28 0.0913224
r104 26 28 0.0127301
r105 24 26 0.0489649
r106 24 25 0.17293
r107 20 25 0.0489649
r108 20 22 0.803443
r109 19 38 25
r110 16 19 7.56568
r111 13 22 10
r112 9 34 15
r113 9 31 10
r114 6 19 10.1617
r115 4 16 65.9055
r116 2 6 46.5732
r117 1 4 27.3386
.ends

.subckt PM_XNOR2%GND! 2 13 16 17 22 27
c60 22 0 0.00188375f
c61 2 0 0.00114781f
r62 20 27 0.0188364
r63 20 22 1.12793
r64 17 27 0.0271748
r65 16 17 0.211649
r66 13 22 10
r67 2 27 30
.ends

.subckt PM_XNOR2%NET3 1 3 8 10 11 17
c41 8 0 2.38746e-20
c42 3 0 0.00473093f
c43 1 0 0.00112759f
r44 16 17 0.321725
r45 14 17 0.0884079
r46 12 13 0.127301
r47 11 12 0.392492
r48 10 14 0.0489649
r49 10 13 0.153499
r50 6 11 0.0489649
r51 6 8 0.362375
r52 3 16 10
r53 1 8 10
.ends

.subckt PM_XNOR2%OUT 1 5 10 16 17 20 23
c57 23 0 1.4951e-19
c58 10 0 1.34415e-19
c59 5 0 0.00112759f
r60 23 27 0.187528
r61 20 22 0.322882
r62 18 22 0.167101
r63 16 18 0.0489649
r64 16 17 0.38472
r65 12 14 0.388606
r66 10 27 1.7
r67 10 12 0.741266
r68 8 17 0.0489649
r69 8 10 0.265224
r70 5 20 10
r71 1 14 15
r72 1 12 10
.ends

.subckt PM_XNOR2%VDD! 2 12 13 15 22 25 30 35 39 45
c58 45 0 0.024651f
c59 35 0 8.48619e-19
c60 25 0 0.0248826f
r61 45 48 0.388606
r62 43 48 1.4291
r63 40 49 0.0293518
r64 40 42 0.238021
r65 39 43 0.049152
r66 39 42 0.915167
r67 35 38 0.388606
r68 33 49 0.0166039
r69 33 38 1.42521
r70 30 49 0.0293518
r71 28 29 0.318779
r72 25 28 0.445845
r73 23 31 0.049152
r74 23 29 1.15319
r75 22 30 0.0476042
r76 22 31 0.664516
r77 15 48 15
r78 15 45 10
r79 13 38 15
r80 13 35 10
r81 12 28 15
r82 12 25 10
r83 2 42 30
.ends

.subckt PM_XNOR2%INA 1 2 3 4 5 8 11 14 18 19 20 21 22 25 28 30 31 32 34 39
c89 34 0 1.67977e-19
c90 32 0 3.92628e-19
c91 21 0 1.34395e-19
c92 18 0 7.8827e-20
c93 8 0 1.07028e-19
r94 39 43 0.187528
r95 34 43 1.7
r96 34 37 0.00485757
r97 28 37 25
r98 26 32 7.23947
r99 26 28 0.501734
r100 25 31 7.23947
r101 25 28 2.69981
r102 21 30 3.46412
r103 21 22 176.139
r104 19 23 3.46412
r105 19 20 176.139
r106 18 22 3.46412
r107 17 20 3.46412
r108 15 30 48.6236
r109 14 32 33.4898
r110 12 31 30.7559
r111 11 23 43.8394
r112 9 18 48.6236
r113 6 8 102.715
r114 5 17 43.8394
r115 4 15 46.6709
r116 4 14 46.5732
r117 3 9 46.6709
r118 3 8 46.5732
r119 2 12 27.3386
r120 2 11 27.3386
r121 1 6 27.3386
r122 1 5 27.3386
.ends

.subckt PM_XNOR2%INB 1 2 3 4 5 8 11 14 17 20 24 25 26 27 28 30 31 32 34 40
c104 40 0 8.64725e-20
c105 34 0 3.45393e-20
c106 32 0 1.42684e-19
c107 24 0 5.62306e-20
r108 40 44 0.186663
r109 34 44 1.7
r110 34 38 0.00502177
r111 27 30 3.46412
r112 27 28 72.1543
r113 25 29 3.46412
r114 25 26 72.1543
r115 24 28 3.46412
r116 21 26 3.46412
r117 20 38 25
r118 18 32 6.96783
r119 18 20 0.770186
r120 17 31 6.96783
r121 17 20 3.13209
r122 15 30 28.2173
r123 12 14 102.715
r124 11 29 25.7764
r125 9 24 28.2173
r126 8 32 33.5874
r127 6 31 30.6583
r128 5 21 25.7764
r129 4 15 46.6709
r130 4 14 46.5732
r131 3 9 46.6709
r132 3 8 46.5732
r133 2 12 27.3386
r134 2 11 27.3386
r135 1 6 27.3386
r136 1 5 27.3386
.ends

